US05453220
4-Morpholinoaniline (1 g, 5.61 mmol) was dissolved in dry THF (25 ml). N-BuLi (1.41M, 8.8 ml) was added dropwise at 0° C. over 5 minutes and the solution changed from brown to yellow. After stirring for 2.5 hours while warming to room temperature, trimethylsilyl chloride (97%, 1.62 ml) was added, followed by stirring at room temperature for 12 hours. Evaporation of the solvent gave a yellow solid which was sublimed at 10-4 torr to produce pure 4-morpholino-N,N-bistrimethylsilyl aniline as white solid (1.32 g, 73%). 1H NMR (CDCl3) 6.75 (s, Ph, 4H), 3.81 (t, CH2, 4H), 3.05 (t, CH2, 4H), 0.03 (s, TMS, 18H) .

reactant | 4-Morpholinoaniline | 5.61 mmol, 1 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | trimethylsilyl chloride | 1.62 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-morpholino-N,N-bistrimethylsilyl aniline | 1.32 g, 73% | O1CCN(CC1)C1=CC=C(N([Si](C)(C)C)[Si](C)(C)C)C=C1 | C16H30N2OSi2
